2104-01-11 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2104-1-10**] 02:53 PM
 MULTI LUMEN - START [**2104-1-10**] 08:33 PM
 PICC LINE - STOP [**2104-1-11**] 02:00 AM
 FEVER - 101.7
F - [**2104-1-10**] 05:00 PM
   - Continued flagyl, cefepime, vanc, fluc, aciclovir
   - Held bb, ace-i
   - RIJ line placed and pulled out 4cm and picc line was removed and
   cultured
   - Got total of 1L NS, with improvement of her bps (sbps 90s->100). Had
   some crackles on exam, but O2 sats remained stable.
   - Patient remained tachy overnight, CVP 9-10 so did not give more
   fluids.
   - Held octreotide/loperamide concern for infectious diarrhea
   - Had lots of stools, sent repeat c diff and placed flexiseal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2104-1-10**] 03:00 PM
   Vancomycin - [**2104-1-10**] 08:28 PM
   Acyclovir - [**2104-1-11**] 12:47 AM
   Cefipime - [**2104-1-11**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2104-1-11**] 01:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-1-11**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**05**] AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.2
C (98.9
   HR: 107 (107 - 137) bpm
   BP: 113/59(72) {98/48(60) - 127/71(82)} mmHg
   RR: 22 (20 - 50) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.1 kg (admission): 79.3 kg
   Height: 64 Inch
    CVP: 12 (9 - 14)mmHg
   Total In:
                                                                  2,341 mL
                                                                    799 mL
   PO:
   TF:
   IVF:
                                                                  1,852 mL
                                                                    799 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    100 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,141 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   GEN: Elderly woman in mild distress but looks better than yesterday,
   alert and oriented
   CV: Tachycardic, no heave, no JVD
   PULM: CTAB
   Labs / Radiology
   95 K/uL
   8.3 g/dL
   102 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.4 mEq/L
   26 mg/dL
   111 mEq/L
   141 mEq/L
   24.0 %
   0.4 K/uL
        [image002.jpg]
                             [**2104-1-5**]  09:38 PM
                             [**2104-1-6**]  03:27 AM
                             [**2104-1-7**]  03:30 AM
                             [**2104-1-10**]  01:42 PM
                             [**2104-1-10**]  11:59 PM
                             [**2104-1-11**]  04:00 AM
   WBC
   14.1
   13.1
   6.1
   0.4
   Hct
   29.0
   28.1
   27.5
   24.0
   Plt
   241
   235
   208
   95
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   TropT
   0.07
   0.05
   0.04
   Glucose
   92
   98
   94
   133
   86
   102
   Other labs: PT / PTT / INR:15.1/125.6/1.3, CK / CKMB /
   Troponin-T:104/4/0.04, ALT / AST:54/88, Alk Phos / T Bili:125/1.0,
   Differential-Neuts:4.0 %, Band:0.0 %, Lymph:80.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:275 IU/L, Ca++:7.3
   mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Microbiology: [**2104-1-9**] 5:55 am BLOOD CULTURE      2 OF 2.
   Blood Culture, Routine (Preliminary):
   GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS
   [**2104-1-9**] 10:18 am URINE      Source: Catheter.
   URINE CULTURE (Preliminary):
   PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML..
   Assessment and Plan
 ALTERATION IN NUTRITION
 PULMONARY EMBOLISM (PE), ACUTE
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DYSPNEA (SHORTNESS OF BREATH)
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   74F with newly diagnosed ovarian adenocarcinoma and bilateral PEs,
   cardiomyopathy of unclear etiology, now transferred back to [**Hospital Unit Name 4**] for
   febrile neutropenia, sepsis, and concern for impending shock.
   .
   # Sepsis/febrile neutropenia.  Blood cx [**1-9**] w/ CNS and Urine cx [**1-9**]
   with 10-100,000 pseudomonas. Patient with febrile upon transfer,
   tachycardia, and tachypnea.  Now neutropenic as result of chemo.  Blood
   cultures w/ coag neg staph, [**11-28**], likely to be contaminant.  Will
   continue vanc for 24-48 hours and reassess.  Other sources: diffuse
   diarrhea though c diff neg x2, fungemia given TPN use, and HSV for
   ulcers.
   - F/u blood cultures; picc line cx
   - F/u Viral panel - nasal swab
   - F/u TTE prelim no vegetations.
   - Maintain CVP 9-10
   - Cont current abx: acyclovir/fluc, cefepime/vanc/flagyl. Can d/c vanc
   if pt continues to improve and blood cx w/o further growth w/in 24
   hours as coag neg staph likely contaminant.
   - Continue to hold lisinopril and restart low dose metoprolol
   .
   # Tachypnea.  Elevated respiratory rates though good sats and PaO2 on
   only 2 L, likely in setting of PE. Continue to monitor respiratory
   status and continue anticoagulation
   .
   # Lethargy.  Improved from transfer. Likely related to metabolic
   abnormalities and infection. Continue to monitor, replete lytes, and
   treat infxn as outlined above.
   .
   # Diarrhea.  Had evidence of ileus vs. SBO, now resolved and with
   diarrhea.  Recent chemo likely contributing.  Consideration for
   infectious etiology as above.
   - Cont holding loperamide, octreotide.
   - F/u c diff cx; cont flagyl empirically for now
   - [**Hospital1 **] lytes w/ aggressive repletion
   .
   # Pancytopenia.  Likely chemo related.  Will likely continue to drop
   - continue to monitor counts.
   - continue gcsf.
   - continue neutropenic precautions
   .
   # Cardiomyopathy.  Cardiology consulted, Takusubo's vs. effects of
   chemo (coronary vasospasm).  Less likely CAD.
   - F/u repeat TTE as above.
   - hold diuretics for now.
   - Hold lisinopril
   - Restart low dose metoprolol
   - Continue ASA and statin.
   .
   # PE.  Patient with bilateral PEs and right heart strain with RV
   hypokinesis noted on initial TTE but considered poor thrombolytic
   candidate given malignancy.
   - anticoagulation with heparin.
   .
   # Serous ovarian adenocarcinoma.  Recent [**Doctor Last Name **]/taxol with upcoming
   plans for surgical intervention.
   - oncology recs.
   ICU Care
   Nutrition: Start TPN
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-1-10**] 02:54 PM
   Multi Lumen - [**2104-1-10**] 08:33 PM
   Prophylaxis:
   DVT: On IV heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments: Patient and patient
s husband
   [**Name (NI) 156**] status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 74F breast ca (XRT), CAD, hospitalized since
   [**12-30**] w/ newly dx met ovarian serous adenoca, b/l PEs on heparin, CMP,
   s/p chemo [**1-4**] ([**Doctor Last Name **]/taxol). Course c/b oral lesions (acyclovir since
   [**1-7**]), persistent tachycardia, SBO/ileus with ongoing diarrhea, recent
   fevers (100.9 X 2 days), dyspnea, new onset of early neutropenia.
   Transferred to ICU after spiking to 103 with concern for sepsis and
   anticipated prolonged neutropenia.  CVL placed. PICC line removed.
   Normotensive overnight with adequate UOP.
   101.7 --> 98.9  110/60   120   26   99% 2L
   much more alert, less tachypenic
   tachy RR
   CTA X basilar rales
   obese, distended, NT, + BS
   warm, 1+ peripheral/dep edema
   LABS:  WBC 0.4  HCT 24, plt 95, K+ 4.4, Cr 0.6,  vbg 7.40/35, INR 1.3
   MICRO: c diff neg X  2, CNS in [**11-28**] bl cx [**1-9**], PSA urine [**1-9**]
   CXR sl blunting b CPA, no focal process, no change
   IMP: Sepsis in immunosupressed pt, likely from urinary infection (cx
   with PSA). Improving.
   Agree with plan to continue broad empiric coverage (cefepime, vanco,
   fluconazole).  Suspect CNS bacteremia is contaminant but will continue
   vanco pending neg cx data X 48 hrs. Given ongoing diarrhea, will
   continue empiric flagyl with repeat stool c diff cx pending, holding
   octreotide and immodium. We continue to replete lytes aggressively in
   light of diarrhea. Will continue acyclovir for ? HSV oral
   lesions. Droplet precautions pending viral screen. She remains
   normotensive, has been persistently tachy throughout this hospital
   course --? from CMP, PEs, now diarrhea, infection. Will fup TTE
   results, CVP at goal and UOP adequate. Will resume low dose BB.  Resp
   status improved--still appears tachypneic, likely from fever/sepsis/PE
   but w/o signs of fatigue and cont to oxygenating well.  Continue hep
   gtt for known pes. GCS-f for neutropenia.  Communciation with onc.
   Remainder of plan as outlined in resident note. Pt remains at high risk
   for volume depletion and nosocomial inf given anticipated prolonged
   neutropenia and will keep in ICU at this time. ICU:cvl, restart tpn,
   PPI, full code.
   Patient is critically ill
   Total time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2104-1-11**] 04:38 PM ------

2104-01-12 06:56:00 Physician Resident Progress Note
Chief Complaint:
   Neutropenic fever
   24 Hour Events:
   - Had a fever, sent blood and urine cultures.
   - Third C diff came back negative, DC'd flagyl
   - TTE showed much improved systolic fx, no vegetations
   - Pt still tachycardic, restarted BB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2104-1-11**] 02:15 PM
   Vancomycin - [**2104-1-11**] 08:00 PM
   Cefipime - [**2104-1-12**] 01:39 AM
   Acyclovir - [**2104-1-12**] 02:09 AM
   Stopped:
   Metronidazole - [**2104-1-11**] 03:55 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-1-12**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**05**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.8
   HR: 123 (111 - 148) bpm
   BP: 125/51(78) {101/51(65) - 136/80(87)} mmHg
   RR: 26 (19 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.8 kg (admission): 79.3 kg
   Height: 64 Inch
    CVP: 4 (4 - 8)mmHg
   Total In:
                                                                  4,543 mL
                                                                    902 mL
   PO:
   TF:
   IVF:
                                                                  3,412 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                  1,580 mL
   Urine:
                                                                  1,370 mL
                                                                    680 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                    900 mL
   Drains:
   Balance:
                                                                  2,073 mL
                                                                   -678 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   GEN: Elderly woman in mild distress but looks better than yesterday,
   alert and oriented
   CV: Tachycardic, no heave, no JVD
   PULM: CTAB
   Labs / Radiology
   77 K/uL
   7.9 g/dL
   143 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.6 mEq/L
   29 mg/dL
   115 mEq/L
   143 mEq/L
   23.7 %
   0.6 K/uL
        [image002.jpg]
                             [**2104-1-5**]  09:38 PM
                             [**2104-1-6**]  03:27 AM
                             [**2104-1-7**]  03:30 AM
                             [**2104-1-10**]  01:42 PM
                             [**2104-1-10**]  11:59 PM
                             [**2104-1-11**]  04:00 AM
                             [**2104-1-11**]  04:50 PM
                             [**2104-1-12**]  03:31 AM
   WBC
   14.1
   13.1
   6.1
   0.4
   0.6
   Hct
   29.0
   28.1
   27.5
   24.0
   23.7
   Plt
   241
   235
   208
   95
   77
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   TropT
   0.07
   0.05
   0.04
   Glucose
   92
   98
   94
   133
   86
   102
   130
   143
   Other labs:
    PT / PTT / INR:14.3/90.6/1.2,
   T Bili: 0.5
   Differential-Neuts:4.0 %, Band:4.0 %, Lymph:45.0 %, Mono:43.0 %,
   Eos:2.0 %,
   Gran-Ct: 25
   Lactic Acid:1.6 mmol/L
   Albumin:2.1 g/dL
   LDH:237 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:1.6 mg/dL
   MICRO:
   No new blood culture growth
[**2104-1-9**] 10:18 am URINE      Source: Catheter.
                            **FINAL REPORT [**2104-1-11**]**
   URINE CULTURE (Final [**2104-1-11**]):
      Culture workup discontinued. Further incubation showed contamination
      with mixed skin/genital flora. Clinical significance of isolate(s)
      uncertain. Interpret with caution.
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------   0.5 S
GENTAMICIN------------     2 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----    32 S
TOBRAMYCIN------------   <=1 S
   ECHO:
   IMPRESSION: Suboptimal image quality. No echocardiographic evidence of
   endocarditis but technically limited study. Borderline normal left
   ventricular systolic function (LVEF 50-55%). Resting tachycardia.
   Compared with the prior study (images reviewed) of [**2103-1-5**], the heart
   rate is faster. Left ventricular function appears more vigorous and the
   cavity size is smaller. Estimated pulmonary artery pressures are
   lower.
   Assessment and Plan
 CARDIOMYOPATHY, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 NEUTROPENIA
 DIARRHEA
 ALTERATION IN NUTRITION
 PULMONARY EMBOLISM (PE), ACUTE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DYSPNEA (SHORTNESS OF BREATH)
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   74F with newly diagnosed ovarian adenocarcinoma and bilateral PEs,
   cardiomyopathy of unclear etiology, now transferred back to [**Hospital Unit Name 4**] for
   febrile neutropenia, sepsis, and concern for impending shock.
   # Sepsis/febrile neutropenia.  Blood cx [**1-9**] w/ CNS and Urine cx [**1-9**]
   with 10-100,000 pseudomonas. Patient with febrile upon transfer,
   tachycardia, and tachypnea.  Now neutropenic as result of chemo.  Blood
   cultures w/ coag neg staph, [**11-28**], likely to be contaminant.  Other
   sources: diffuse diarrhea though c diff neg x2, fungemia given TPN use,
   skin breakdown from diarrhea, and HSV for ulcers.  No veggies on TTE.
   Stopped falgyl as cdiff negative x 3.
   - F/u blood cultures; picc line cx
   - F/u Viral panel - nasal swab
   - Maintain CVP 9-10
   - Cont acyclovir/fluc, cefepime, vanc
   - Continue to hold lisinopril and restart low dose metoprolol
   # Tachypnea.  Elevated respiratory rates though good sats and PaO2 on
   only 2 L, likely in setting of PE. Continue to monitor respiratory
   status and continue anticoagulation
   # Sinus Tachycardia
   [**12-25**] fever vs hypovolemia vs PE vs infection
   - monitor
   - IVFs to keep CVP 8-10
   # Lethargy.  Improved from transfer. Likely related to metabolic
   abnormalities and infection. Continue to monitor, replete lytes, and
   treat infxn as outlined above.
   # Diarrhea.  Had evidence of ileus vs. SBO, now resolved and with
   diarrhea.  Recent chemo likely contributing.  . C diff neg x 3
   - consider restarting loperamide, octreotide.
   - [**Hospital1 **] lytes w/ aggressive repletion
   # Pancytopenia.  Likely chemo related.  Will likely continue to drop
   - continue to monitor counts.
   - continue gcsf.
   - continue neutropenic precautions
   # Cardiomyopathy.  Cardiology consulted, Takusubo's vs. effects of
   chemo (coronary vasospasm).  Less likely CAD. Repeat TTE improved.
   - hold diuretics for now.
   - Hold lisinopril
   - Restart low dose metoprolol
   - Continue ASA and statin.
   # PE.  Patient with bilateral PEs and right heart strain with RV
   hypokinesis noted on initial TTE but considered poor thrombolytic
   candidate given malignancy.
   - anticoagulation with heparin for now
   # skin breakdown
   - improved after placing foley as recommended by wound care
   # Serous ovarian adenocarcinoma.  Recent [**Doctor Last Name **]/taxol with upcoming
   plans for surgical intervention.
   - oncology recs.
   ICU Care
   Nutrition: Start TPN
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-1-10**] 02:54 PM
   Multi Lumen - [**2104-1-10**] 08:33 PM
   Prophylaxis:
   DVT: On IV heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments: Patient and patient
s husband
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2104-01-13 11:47:00 Physician Attending Progress Note
Chief Complaint: fevers, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo female with ovarian CA, DVT/PE transferred with neutropenic
   feverstachycardia
   24 Hour Events:
   Febrile
   1 liter LR with slight improvt in tachycardia
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2104-1-11**] 03:55 PM
   Fluconazole - [**2104-1-12**] 01:46 PM
   Acyclovir - [**2104-1-13**] 07:52 AM
   Vancomycin - [**2104-1-13**] 09:00 AM
   Cefipime - [**2104-1-13**] 10:30 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   G-CSF, pantoprazole, [**Last Name (un) 3210**], Zocor, Nystatin, metoprolol 25 mg TID,
   octreotide 100 IV Q8, KCL and Mg replacement
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-1-13**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**05**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100.1
   HR: 132 (112 - 148) bpm
   BP: 130/69(82) {93/48(66) - 138/76(87)} mmHg
   RR: 27 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 79.3 kg
   Height: 64 Inch
   CVP: 7 (4 - 10)mmHg
   Total In:
                                                                  4,204 mL
                                                                  4,169 mL
   PO:
   TF:
   IVF:
                                                                  1,766 mL
                                                                  3,154 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,180 mL
                                                                  2,130 mL
   Urine:
                                                                  1,830 mL
                                                                    930 mL
   NG:
   Stool:
                                                                  3,350 mL
   Drains:
   Balance:
                                                                   -976 mL
                                                                  2,039 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   82 K/uL
   105 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.3 mEq/L
   27 mg/dL
   117 mEq/L
   144 mEq/L
   26.5 %
   3.5 K/uL
        [image002.jpg]
                             [**2104-1-5**]  09:38 PM
                             [**2104-1-6**]  03:27 AM
                             [**2104-1-7**]  03:30 AM
                             [**2104-1-10**]  01:42 PM
                             [**2104-1-10**]  11:59 PM
                             [**2104-1-11**]  04:00 AM
                             [**2104-1-11**]  04:50 PM
                             [**2104-1-12**]  03:31 AM
                             [**2104-1-12**]  06:28 PM
                             [**2104-1-13**]  04:00 AM
   WBC
   14.1
   13.1
   6.1
   0.4
   0.6
   3.5
   Hct
   29.0
   28.1
   27.5
   24.0
   23.7
   26.5
   Plt
   241
   235
   208
   95
   77
   82
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   0.5
   0.4
   TropT
   0.07
   0.05
   0.04
   Glucose
   92
   98
   94
   133
   86
   102
   130
   143
   96
   105
   Other labs: PT / PTT / INR:13.9/66.6/1.2, CK / CKMB /
   Troponin-T:104/4/0.04, ALT / AST:54/88, Alk Phos / T Bili:125/0.5,
   Differential-Neuts:62.0 %, Band:11.0 %, Lymph:10.0 %, Mono:12.0 %,
   Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:237 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.0 mg/dL
   GNR [**1-11**] blood cultures-
   CXR-
   Assessment and Plan
   74 yo lady with CAD, past h/o breast cancer, and now recently diagnosed
   ovarian CA and DVTs/PEs- to [**Hospital Unit Name 4**] with  neutropenic fever, SIRS,
   Pseudomonas UTI. BP stable
    1. Sepsis: now recovering GNR
s from blood- until ID/sensitivities
       back, would double-cover for pseudomonas. [**1-9**] urine culture
       demonstrates pan-sensitive species- change to cefipime/cipro. CNS
       in blood appears contaminant, would stop vancomycin. Will obtain
       surveillance cultures
    2. Tachycardia : appears multifactorial with diarrhea, infection, PE.
       CVP goal [**8-1**] and continue metoprolol
    3. Diarrhea :octreotide and lopramide restarted
    4. Pancytopenia: WBC up today, encouraging for marrow recovery
    5. Cardiomyopathy: improved function by last Echo
    6. PE: anticoagulation with heparin
    7. FEN: on TPN
 CARDIOMYOPATHY, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 NEUTROPENIA
 DIARRHEA
 ALTERATION IN NUTRITION
 PULMONARY EMBOLISM (PE), ACUTE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DYSPNEA (SHORTNESS OF BREATH)
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2104-1-13**] 11:00 AM 87 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-1-10**] 08:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: Will speak to onc floor abt transfer

2104-01-14 07:23:00 Physician Resident Progress Note
Chief Complaint: neutropenia
   24 Hour Events:
 BLOOD CULTURED - At [**2104-1-13**] 08:00 AM
 URINE CULTURE - At [**2104-1-13**] 09:26 AM
 CALLED OUT
   - Got 1L LR to maintain fluid balance net even
   - restarted octreotide for diarrhea
   - blood cx grew GNR, added cipro to cefepime for double coverage
   - d/c'd vanc as coag neg staph likely contaminant
   - pt pan-cultured and surveillance cx ordered
   - stopped neupogen as she was nolonger neutropenic
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2104-1-11**] 03:55 PM
   Vancomycin - [**2104-1-13**] 09:00 AM
   Fluconazole - [**2104-1-13**] 02:57 PM
   Acyclovir - [**2104-1-13**] 11:00 PM
   Ciprofloxacin - [**2104-1-13**] 11:52 PM
   Cefipime - [**2104-1-14**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth, mucositis
   Cardiovascular: Tachycardia
   Nutritional Support: Parenteral nutrition
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-1-14**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**05**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 114 (104 - 138) bpm
   BP: 144/80(92) {93/50(65) - 144/96(102)} mmHg
   RR: 23 (22 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.1 kg (admission): 79.3 kg
   Height: 64 Inch
    CVP: 6 (6 - 9)mmHg
   Total In:
                                                                  6,694 mL
                                                                  1,041 mL
   PO:
   TF:
   IVF:
                                                                  4,606 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                  5,420 mL
                                                                  1,340 mL
   Urine:
                                                                  1,720 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,274 mL
                                                                   -299 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: mucositis
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   90 K/uL
   8.7 g/dL
   100 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.1 mEq/L
   28 mg/dL
   117 mEq/L
   147 mEq/L
   26.0 %
   13.8 K/uL
        [image002.jpg]
                             [**2104-1-7**]  03:30 AM
                             [**2104-1-10**]  01:42 PM
                             [**2104-1-10**]  11:59 PM
                             [**2104-1-11**]  04:00 AM
                             [**2104-1-11**]  04:50 PM
                             [**2104-1-12**]  03:31 AM
                             [**2104-1-12**]  06:28 PM
                             [**2104-1-13**]  04:00 AM
                             [**2104-1-13**]  05:00 PM
                             [**2104-1-14**]  04:07 AM
   WBC
   6.1
   0.4
   0.6
   3.5
   13.8
   Hct
   27.5
   24.0
   23.7
   26.5
   26.0
   Plt
   [**Telephone/Fax (2) 11653**]0
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   0.5
   0.4
   0.5
   0.5
   TropT
   0.04
   Glucose
   94
   133
   86
   102
   130
   143
   96
   105
   115
   100
   Other labs: PT / PTT / INR:13.7/67.0/1.2, Differential-Neuts:79.0 %,
   Band:3.0 %, Lymph:13.0 %, Mono:2.0 %, Eos:0.0 %, Ca++:7.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: .
   Imaging:
   CXR [**1-13**]
   HISTORY: Ovarian cancer, short of breath.
   One portable view. Comparison with [**2104-1-10**]. There appears to be some
   motion
   artifact. There is streaky density at the lung bases likely
   representing some
   subsegmental atelectasis. In addition, somewhat asymmetric density at
   the
   left lung base is new. The heart and mediastinal structures are
   unchanged. A
   right internal jugular catheter remains in place.
   IMPRESSION: Limited study demonstrating possible early left basilar
   infiltrate. Repeat CXR is recommended.
   Microbiology:
   No new growth, sensis pending on GNRs in blood
   Assessment and Plan
   74F with newly diagnosed ovarian adenocarcinoma and bilateral PEs,
   cardiomyopathy of unclear etiology, transferred back to [**Hospital Unit Name 4**] for
   febrile neutropenia, sepsis, and concern for impending shock.
   # Sepsis/febrile neutropenia
   Not  neutropenic, tmax 100.1, treating GNRs in blood and urine
   - Current antibiotics: cefepime, cipro, fluc, acyclovir
   - Daily surveillance cultures
   - Maintain CVP 8-10
   # GNR bacteremia
   Likely pan-sensitive pseudomonas that grew in urine
   -surveillance blood cultures
   - f/u sensitivity
   -Continue Cefepime/Cipro for likely 14 day course from first negative
   blood culture
   # Diarrhea/mucositis: Likely from epithealial sloughing due to
   chemotherapy. Patient is no longer neutrapenic.
   -Cont Immodium, octreotide
   -consider adding lomotil
   -continue rectotube in place to avoid fecal contact with skin
   -continue magic mouthwash, mouthcare, no dentures, nsystatin S & S
   - [**Hospital1 **] lytes and repletion
   # fevers: likely from Pseudomonas versus diarrhea vs post-chemo
   fevers.
   - continue antibiotics as above
   - repeat cxr
   - abx as above
   # tachycardia: sinus tachycardia up to 140s due to PE, exacerbated by
   fevers, hypovolemia.  Now improved.
   - cont to replace GI losses
   # PE: Patient with bilateral PEs and right heart strain with RV
   hypokinesis.
   - Continue heparin drip
   - defer further management to primary team
   # Cardiomyopathy: EF improved
   - Continue Aspirin 81 mg PO/NG DAILY
   - Continue Simvastatin 20 mg PO/NG DAILY
   - Cont metoprolol 25mg PO TID to decrease cardiac work
   # Serous ovarian adenocarcinoma.  Recent [**Doctor Last Name **]/taxol with upcoming
   plans for surgical intervention.
   - oncology recs
   -continue acyclovir
 CARDIOMYOPATHY, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 NEUTROPENIA
 DIARRHEA
 ALTERATION IN NUTRITION
 PULMONARY EMBOLISM (PE), ACUTE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DYSPNEA (SHORTNESS OF BREATH)
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2104-1-13**] 11:00 AM 87 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-1-10**] 08:33 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   ICU Attending Note
   I saw and examined the patient with the medical ICU team on morning
   rounds.  The assessment and plan was discussed in detail and summarized
   above. I agree with the assessment and plan and would emphasize the
   following.
   Sitting up in chair this am.  Notes dry mouth, no SOB.  Minimal cough
   with some white phlegm else no respiratory complaints.
   Hemodynamically stable  Lungs with mininal crackles at bases albeit
   seem to clears somewhat with deep breathing.  2+ bipedal  edema
   GNR in blood, not yet speciated.  Pansensitive Pseudamonas in urine.
   CXR:  no clear inflitrates
   Agree with stopping vanco.  On double gram negative coverage, suspect
   organism in blood will be same as that in urine culutre.  Patient
   clinically improved.
   Detailed assessment and plan as above.
   Patient stable for tranfer back to the medical floor.
   Time spent:  30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2104-1-14**] 12:30 ------